US04558043
528 mg (13.1 mmole) of sodium borohydride are added to a solution, cooled to 0°, of 3.3 g (13.1 mmole) of 5-chloro-6-(piperidin-1-yl)-benzofuran-3(2H)-one, according to Example 2, in 80 ml of methanol. The whole is subsequently stirred for a further 4 hours at 0°. The reaction mixture is diluted with water, adjusted to pH 6-7 with dilute ammonium chloride solution and extracted several times with methylene chloride. The organic phases are washed with water, combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. Chromatography over silica gel using methylene chloride as eluant (Rf =0.12) yields 5-chloro-3-hydroxy-6-(piperidin-1-yl)-2,3-dihydrobenzofuran in the form of an oil.

reactant | sodium borohydride | 13.1 mmole, 528 mg | [BH4-].[Na+]
reactant | 5-chloro-6-(piperidin-1-yl)-benzofuran-3(2H)-one | 13.1 mmole, 3.3 g | ClC=1C(=CC2=C(C(CO2)=O)C1)N1CCCCC1 | C13H14ClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | O | H2O
product | 5-chloro-3-hydroxy-6-(piperidin-1-yl)-2,3-dihydrobenzofuran | ClC=1C(=CC2=C(C(CO2)O)C1)N1CCCCC1 | C13H16ClNO2
